US04835275
9-(2-Methylbenzylamino)-1,2,3,4-tetrahydroacridin-1-ol
3,4-Dihydro-9-(2-methylbenzylamino)acridin-1(2H)-one (4.15 g) was suspended in 100 ml of THF and chilled with ice-water. 1M lithium hydride in THF (8.0 ml) was added dropwise through a syringe and then the reactionh mixture was stirred 30 minutes in the cold. It was quenched by the sequential addition of 0.5 ml of water, 0.5 ml of 15% sodium hydroxide and 1.5 ml of water. The inorganic salts were filtered and the organic phase was evaporated to obtain an amorphous solid product. Recrystallization from ethyl acetate gave 3.38 g, mp 167°-169° C.1

reactant | 3,4-Dihydro-9-(2-methylbenzylamino)acridin-1(2H)-one | 4.15 g | CC1=C(CNC=2C3=CC=CC=C3N=C3CCCC(C23)=O)C=CC=C1 | C21H20N2O
reactant | lithium hydride | 1M | [H-].[Li+]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 8.0 ml | C1CCOC1 | C4H8O
product | 9-(2-Methylbenzylamino)-1,2,3,4-tetrahydroacridin-1-ol | CC1=C(CNC=2C3=CC=CC=C3N=C3CCCC(C23)O)C=CC=C1 | C21H22N2O
